US06458798B1
(7-2) 3-(2-Amino-4-chloro-6-methlpyrimidine-5-yl)propanenitrile
A mixture of 3-(2-amino-4-hydroxy-6-methylpyrimidine-5-yl)propanenitrile (2 g, 11.2 mmol) and phosphorous oxychloride (13 ml) was kept at 90° C. for 5 hours. The procedure according to pro-treatment of Reference-example 6 was carried out to give the object compound (1.06 g, 48%).

reactant | 3-(2-amino-4-hydroxy-6-methylpyrimidine-5-yl)propanenitrile | 11.2 mmol, 2 g | NC1=NC(=C(C(=N1)O)CCC#N)C | C8H10N4O
reactant | phosphorous oxychloride | 13 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 3-(2-Amino-4-chloro-6-methlpyrimidine-5-yl)propanenitrile | 1.06 g, 48% | NC1=NC(=C(C(=N1)Cl)CCC#N)C | C8H9ClN4
